US08049015B2
To (5-{2-[(N-tert-butoxycarbonyl-N-ethyl-amino)-methyl]-4-trifluoromethyl-phenyl}-pyridin-3-yl)-acetic acid methyl ester (0.742 g, 1.6 mmol) in CH2Cl2 (3 mL) was added 4N HCl in 1,4-dioxane (4 mL), and the reaction was stirred at room temperature until no starting material was seen by analytical LCMS. The mixture was then concentrated to give [5-(2-ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid methyl ester, dihydrochloride.

reactant | (5-{2-[(N-tert-butoxycarbonyl-N-ethyl-amino)-methyl]-4-trifluoromethyl-phenyl}-pyridin-3-yl)-acetic acid methyl ester | 1.6 mmol, 0.742 g | COC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)OC(C)(C)C)=O | C23H27F3N2O4
reactant | HCl | 4N | Cl | ClH
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | [5-(2-ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid methyl ester, dihydrochloride | Cl.Cl.COC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | InChI=1S/C18H19F3N2O2.2ClH/c1-3-22-10-14-8-15(18(19,20)21)4-5-16(14)13-6-12(9-23-11-13)7-17(24)25-2;;/h4-6,8-9,11,22H,3,7,10H2,1-2H3;2*1H
